US05216134
3,3'-Dihydroxy-6,6'-dimethyl-2,2'-bipyridine (5)
6-Methyl-3-hydroxypyridine (23.9 g, 0.219 moles), lead dioxide (98.3 g, 0.411 moles) and toluene (1 liter) were combined and refluxed for five hours. The hot solution was filtered and evaporated to dryness. The residue was refluxed with hexane and filtered while hot. The solution was evaporated to dryness giving the product as a yellow powder.

reactant | 6-Methyl-3-hydroxypyridine | 0.219 moles, 23.9 g | CC1=CC=C(C=N1)O | C6H7NO
reactant | lead dioxide | 0.411 moles, 98.3 g | [Pb](=O)=O
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | 3,3'-Dihydroxy-6,6'-dimethyl-2,2'-bipyridine | Yield: 9.3% | OC=1C(=NC(=CC1)C)C1=NC(=CC=C1O)C | C12H12N2O2
